US07253196B2
2-(4-benzylpiperidin-1-yl)-5-isopropyl-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one and 4-benzylpiperidine according to Method G+H.

reactant | 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C(C)C | C6H10N2O2
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 2-(4-benzylpiperidin-1-yl)-5-isopropyl-1,3-oxazol-4(5H)-one | C(C1=CC=CC=C1)C1CCN(CC1)C=1OC(C(N1)=O)C(C)C | C18H24N2O2
